US07329677B2
C3. 3-Hydroxy-3-(4-methoxypyridin-2-yl)-2,2-dimethyl-propionic acid methyl ester
A solution of 0.58 g of 4-methoxypyridine-2-carbaldehyde (Ashimori et al., Chem. Pharm. Bull. 38, 2446-2458 (1990)) and 21 mg of scandium trifluoromethanesulfonate in 14 ml of dichloromethane is treated dropwise with 0.9 ml of 1-methoxy-2-methyl-1-trimethylsilyloxypropane under ice-cooling. After 10 min the cooling bath is removed and the mixture is stirred for 18 h. Thereafter, 12 ml of methanol and 12 ml of aqueous hydrochloric acid (3 M) are added and stirring is continued for further 14 h. The solvents are removed in vacuo, the residue is dissolved in dichloromethane and washed with saturated aqueous sodium hydrogencarbonate solution. The organic layer is dried using sodium sulfate and concentrated to give 0.845 g of the title compound as a colorless oil. MS: 240.0 (MH+). TLC: Rf=0.46 (toluene/acetone 2:1).

reactant | 4-methoxypyridine-2-carbaldehyde | 0.58 g | COC1=CC(=NC=C1)C=O | C7H7NO2
reactant | 1-methoxy-2-methyl-1-trimethylsilyloxypropane | 0.9 ml | COC(C(C)C)O[Si](C)(C)C | C8H20O2Si
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
catalyst | scandium trifluoromethanesulfonate | 21 mg | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | 3-Hydroxy-3-(4-methoxypyridin-2-yl)-2,2-dimethyl-propionic acid methyl ester | 0.845 g | COC(C(C(C1=NC=CC(=C1)OC)O)(C)C)=O | C12H17NO4
